US07163937B2
Tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(tert-butylsulfonylmethyl)cyclohexylcarbamate (880 mg) was dissolved in CH2Cl2 (5 mL) at 0° C. prior to the addition of trifluoroacetic acid (10 mL). After 1 h at rt, the reaction was concentrated in vacuo. The resultant residue was dissolved in EtOAc and was washed with sat. Na2CO3 solution. The organic phase was dried (MgSO4), filtered, and concentrated. This residue was dissolved in dichloroethane (6 ml) and acetone (6 mL) prior to the addition of NaBH(OAc)3 (637.6 mg). After 2 h, formaldehyde (6.0 mL of a 37% aq. solution) was added along with NaBH(OAc)3 (310 mg). The mixture was stirred for 1 h, quenched with sat. Na2CO3, and extracted with EtOAc (2×). The organic extracts were combined, dried (MgSO4), filtered, and concentrated to afford benzyl (S)-1-((1S,2R,4R)-2-(tert-butylsulfonylmethyl)-4-(isopropyl (methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (1.0 g). MS found: (M+H)+=522.5.

reactant | Tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(tert-butylsulfonylmethyl)cyclohexylcarbamate | 880 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)C(C)(C)C)=O | C28H43N3O7S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-1-((1S,2R,4R)-2-(tert-butylsulfonylmethyl)-4-(isopropyl (methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 1.0 g | C(C)(C)(C)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C27H43N3O5S
